US04658054
3-Chloro-5,6-dimethoxyanthranilic acid (7b)
A mixture of 2,4 g (97.3 mmol) of 2-carbomethoxy-6-chloro-N,N-diacetyl-3,4-dimethoxyaniline and 20 mL of 2N sodium hydroxide was refluxed 3.5 hours. The solution was treated with Darco and neutralized with 5 mL of glacial acetic acid. Upon cooling, the product crystallized and was collected by filtration to yield 0.6 g (36%) of a fluffy yellow solid, mp 140°-142° C. NMR (CDCl3) δ 3.82 (s, 3H, OCH3), 4.03 (s, 3H, OCH3). 7.15 (s, 1H, ArH).

reactant | 2-carbomethoxy-6-chloro-N,N-diacetyl-3,4-dimethoxyaniline | 97.3 mmol, 2,4 g | C(=O)(OC)C1=C(N(C(C)=O)C(C)=O)C(=CC(=C1OC)OC)Cl | C14H16ClNO6
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
reactant | Darco | C | CH4
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-Chloro-5,6-dimethoxyanthranilic acid | 0.6 g, 36% | ClC1=C(C(C(=O)O)=C(C(=C1)OC)OC)N | C9H10ClNO4
